Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Cervical stenosis
 
Major Surgical or Invasive Procedure:
___: ANTERIOR CERVICAL DISCECTOMY WITH FUSION, C6-C7

 
History of Present Illness:
Mr. ___ is a ___ patient who in ___ was 
lifting some chairs and then developed acute-onset scapular pain 
and then numbness and pain shooting down his left arm.  He now 
is left with numbness in his second, third and fourth finger.  
He has throbbing, burning pain that is radiating down from his 
neck.  There is numbness as well. He denies any bowel or bladder 
incontinence, imbalance or frequent falls.

He had a cortisone shot which did not help and he participated 
in
activity modification. He was evaluated by the Pain Clinic and 
as he was not responding to the shot, he was referred here for 
further evaluation.

MRI from ___ shows a broad-based disc bulge at C6-C7, 
eccentric to the left, deforming the spinal cord and compressing 
the C7 nerve root. He presents today for elective C6-C7 anterior 
cervical discectomy and fusion.

 
Past Medical History:
Gastric bypass
 
Social History:
___
Family History:
NC
 
Physical Exam:
The patient has a normal neurological exam, he has numbness in 
the C7 distribution.

Gen: A&Ox3, NAD

Incision: clean and dry without erythema or drainage.

Motor
Delt Bic Tri WrE FFl FE IO  IP  glut Quad Ham TA Gastroc
L  5    ___   ___   5   5    5    5   5    5
R  5    ___   ___   5   5    5    5   5    5

Sensory UE

C5 (Ax)  R nl, L nl
C6 (MC)  R nl, L nl
C7 (Mid finger) R nl, L slightly diminished but improved from 
pre-op.
C8 (MACN)  R nl, L nl
T1 (MBCN)  R nl, L nl

Sensory ___
L2 (Groin): R nl, L nl
L3 (Leg) R nl, L nl
L4 (Knee) R nl, L nl
L5 (Grt Toe): R nl, L nl
S1 (Sm toe): R nl, L nl

Babinski: downgoing

 
Pertinent Results:
___ X-ray C-SPINE NON-TRAUMA 2 views:
No radiology read at discharge but AP and lateral views of the 
cervical spine show normal alignment with hardware in good 
position.
 
Brief Hospital Course:
On ___, Mr. ___ was admitted for elective C6-C7 anterior 
cervical discectomy and fusion.  His operative course was 
uncomplicated and he was transferred to PACU with JP drain in 
place. Please refer to OMR note for full operative course.
On ___, he was doing well, tolerating a full diet and 
ambulating. Upon pulling the JP drain, the distal end was noted 
to be uneven and there was suspicion for a retained fragment of 
the drain. However, there was little resistance when pulling the 
drain, and follow-up x-rays did not show any foreign bodies in 
the pretracheal soft tissues. The SKU number of the drain used 
was obtained from the operating room (___-___) and it was 
confirmed to be a ___ flat wound drain composed of 
silicone with barium impregnated for x-ray detection of drain. 
Given the lack of evidence for a retained fragment on x-ray, the 
patient was instructed on signs of wound infection and 
discharged home to follow up with Dr. ___ in 4 weeks.
 
Medications on Admission:
citalopram 40mg daily
diclofenac sodium 75mg 2 tabs PRN
gabapentin 600mg QID
naltrexone 50mg daily
Probiotic (dose unknown)
trazodone 50mg daily
Vitamin C 1000mg BID
Aspirin 81mg daily
Calcium carbonate 1250mg daily
Vitamin D3 2000units BID
Vitamin B12 1000mcg BID
Ferrous ulfate ER 325mg daily
Fish Oil (dose unknown)
Vitamin E 400unit cap BID
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Docusate Sodium 100 mg PO BID  
3.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Severe 
RX *hydromorphone 2 mg ___ tablet(s) by mouth Every 4 hours Disp 
#*60 Tablet Refills:*0 
4.  Citalopram 40 mg PO DAILY  
5.  Gabapentin 600 mg PO QID  
6.  TraZODone 50 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cervical stenosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___

Surgery
•Your incision is closed with dissolvable sutures underneath 
the skin. You do not need suture removal.
•Please keep your incision dry for 72 hours after surgery.
•Please avoid swimming for two weeks.
•Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•No contact sports until cleared by your neurosurgeon. 
•Do NOT smoke. Smoking can affect your healing and fusion.

Medications
•***Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
•Do not take any anti-inflammatory medications such as Motrin, 
Advil, Aspirin, and Ibuprofen etc… for 2 weeks.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•New weakness or changes in sensation in your arms or legs.

 
Followup Instructions:
___